*------------------------------------------------------------------------------------------
*Subcircuito ADC SAR 4 BITS V2
*------------------------------------------------------------------------------------------
;					INPUTS	|	OUTPUTS
.SUBCKT DAC_4bits in vdd vss out[3] out[2] out[1] out[0]

*------------------------------------------------------------------------------------------
*Parameters
*------------------------------------------------------------------------------------------
.PARAM N_BITS 			4			; Number of bits | FIXED VALUE
.PARAM N_QUANT_LEVELS 	{2**N_BITS}	; Number of Discrete Quantization Levels
.PARAM VDAC_VREF		{2**N_BITS}	; SAR algorithm
.PARAM VHIGH 			1
.PARAM VLOW 			0

*------------------------------------------------------------------------------------------
*IMPORTANT DATA
*------------------------------------------------------------------------------------------
Bquat_step	quantization_step_size		vss	V=(V(vdd)/{N_QUANT_LEVELS})
Vquant_level 	calc_n_quant_levels		vss	{N_QUANT_LEVELS}

*------------------------------------------------------------------------------------------
B3_vdac vdac[3] vss V= VDAC_VREF * V(quantization_step_size) * (VHIGH/2 + VLOW/4 + VLOW/8 + VLOW/16)
B3_out  out[3]  vss V= V(in)>=V(vdac[3]) ? VHIGH : VLOW


B2_vdac vdac[2] vss V= VDAC_VREF * V(quantization_step_size) * (V(out[3])/2 + VHIGH/4 + VLOW/8 + VLOW/16)
B2_out  out[2]  vss V= V(in)>=V(vdac[2]) ? VHIGH : VLOW


B1_vdac vdac[1] vss V= VDAC_VREF * V(quantization_step_size) * (V(out[3])/2 + V(out[2])/4 +  VHIGH/8 + VLOW/16)
B1_out  out[1]  vss V= V(in)>=V(vdac[1]) ? VHIGH : VLOW


B0_vdac vdac[0] vss V= VDAC_VREF * V(quantization_step_size) *  (V(out[3])/2 + V(out[2])/4 + V(out[1])/8 + VHIGH/16)
B0_out  out[0]  vss V= V(in)>=V(vdac[0]) ? VHIGH : VLOW
*------------------------------------------------------------------------------------------
.END DAC_4bits